* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT potentiometer 1 2 3 PARAMS: Rt=1K SET=0.5
.param w=limit(SET,1m,.999)
R0 1 3 {Rt*(1-w)}
R1 3 2 {Rt*(w)}
.ENDS
.SUBCKT POT 1 2 3 PARAMS: Rt=1K SET=0.5
RA 1 3 {Rt*(1-SET)+.001}
RB 3 2 {Rt*SET+.001}
.ENDS
.SUBCKT pot10t 1 2 3 PARAMS: Rt=1K SET=0.5
.param w=limit(set,1m,9.99)
R0 1 3 {Rt*(1-0.1*w)}
R1 3 2 {Rt*0.1*(w)}
.ENDS

* A Collection of Potentiometers
* ==============================
* Helmut Sennewald,                          12/23/2003         V1.1
*
*    Models:
*       potentiometer    old style LTSPICE potentiometer
*       pot_lin          k*x
*       pot_pow          x^k
*       pot_plog         exp(k*(1-x))
*       pot_nlog         exp(kx)
*       pot_tab          table(x)
*       pot_piher_plog   piecewise linear, datasheet
*       pot_radiohm_plog piecewise linear, measured
*    
*
*       1 ____    Set=1 
*             |  
*            | |  3
*            | |<---- Set 0..1
*            | |
*       Rtap | |  Tap 
*            | |
*       2 ____|   Set=0
*
* 
*     RT = total resistance
*     Set = ratio of travel of the wiper
*     RTAP = reference resistance at wiper=Tap
*            It is needed only for pot_plog, pot_nlog and pot_pow.
*            RTAP is measured between pin-2 and wiper.
*     TAP = ratio of travel when Rtap is reached
*--------------------- The Linear Potentiometer ---------------------
*      
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
.SUBCKT PotLin 1 2 3 PARAMS: Rt=1K SET=0.5
* Parameters: Rt, set
.param w=limit(0.01m,set,0.99999)
*
R1 1 3 {Rt*(1-w)}
R2 3 2 {Rt*(w)}
.ENDS
*
*------------- The Ideal Power Function Potentiometer ---------------
*
* It is interesting to know that the power log. curve is a
* good fit to so called "log"-potentiometers, because most of 
* them have not true logarithm dependency in reality.
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1k @ 0.5   (half way)
*           RTAP=1k, TAP=0.5
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_pow 1 2 3 PARAMS: Rt=10k SET=0.5 RTAP=1k TAP=0.5
* Parameters: Rt, set, Rtap, Tap
.param w=limit(0.01m,set,0.99999)
*
.param pwrexp=ln(RTAP/RT)/ln(TAP)
.param ratio=w**pwrexp
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS
* The Audio Potentiometer
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1k @ 0.5   (half way)
*           RTAP=1k, TAP=0.5
*  RTAP and TAP define a point of the curve resistance versus ratio.
.SUBCKT pot_audio 1 2 3 PARAMS: Rt=10k SET=0.5 RTAP=1k TAP=0.5
.param w=limit(0.01m,set,0.99999)
*
.param pwrexp=ln(RTAP/RT)/ln(TAP)
.param ratio=w**pwrexp
.param RTAP=50k, TAP=0.5
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS
*---------- The Ideal Positive Logarithm Potentiometer --------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1 @ 0.001  
*           RTAP=1, TAP=0.001
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_plog 1 2 3 PARAMS: Rt=10k SET=0.5 RTAP=1 TAP=0.001
* Parameters: Rt, Set, Rtap, Tap
.param w=limit(0.01m,Set,0.99999)
*
.param pwrexp=ln(RTAP/RT)/(1-TAP)
.param ratio=exp(pwrexp*(1-w))
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS



*---------- The Ideal Negative Logarithm Potentiometer -------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1 @ 0.999  
*           RTAP=1, TAP=0.999
*  RTAP and TAP define a point of the curve resistance versus ratio.
*
.SUBCKT pot_nlog 1 2 3 PARAMS: Rt=10k SET=0.5 RTAP=1 TAP=0.999
* Parameters: Rt, Set, Rtap, Tap
.param w=limit(0.01m,Set,0.99999)
*
.param pwrexp=ln(RTAP/RT)/(TAP)
.param ratio=exp(pwrexp*(w))
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS



* ------------ The Arbtrary(Table) Potentiometer --------------------
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
.SUBCKT pot_tab 1 2 3 PARAMS: Rt=10k SET=0.5
* Parameters: Rt, Set
.param w=limit(0.01m,Set,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.1, 0.001, 0.2, 0.003, 0.3, 0.01, 
+ 0.4, 0.05, 0.5, 0.1, 0.6, 0.2, 0.7, 0.35,
+ 0.8, 0.6, 0.9, 0.9, 0.95, 0.98, 1.0, 0.99999) 
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS



*---------- A Positive "Logarithm" Potentiometer from PIHER ---------
*
* PIHER shows three piecewise linear functions in their datasheet
* for the resistance dependenncy.
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
.SUBCKT pot_piher_plog 1 2 3 PARAMS: Rt=1K SET=0.5
* Parameters: Rt, Set
.param w=limit(0.01m,Set,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.05,0.01m, 0.33,0.04, 0.66,0.16, 
+ 0.95,0.99, 1.0,0.99999)
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS



*--------- A Positive "Logarithm" Potentiometer from RADIOHM. -------
*
* RADIOHM shows a smooth "logarithm/power" curve in the datasheet. 
* My own measurements on a 100kOhm stero pot has shown that it
* consists of five piecwise linear sections. 
*
* 1.0 <----- 0.0
*        |3
*      __V__
*  1--|_____|--2
*        
*  o--R1-o-R2--o
*
.SUBCKT pot_radiohm_plog 1 2 3 PARAMS: Rt=1K SET=0.5
* Parameters: Rt, Set
.param w=limit(0.01m,Set,0.99999)
*
.param ratio=TABLE(w, 0,0.01m, 0.1,0.01m, 0.3,0.012, 0.42,0.047, 
+ 0.52,0.105, 0.64,0.25, 0.95,0.99999, 1.0,0.99999)
*
R1 1 3 {Rt*(1-ratio)}
R2 3 2 {Rt*(ratio)}
.ENDS
* A Collection of Tapped Potentiometers
* =====================================
* Helmut Sennewald,                          12/23/2003         V1.1
*
*    Models:
*       pot_tap_lin       k*x
*       pot_tap_pow       x^k
*       pot_tap_plog      exp(k*(1-x))
*       pot_tap_nlog      exp(k*x)
*       pot_tap_tab       table(x)
*    
*
*       1 ____    1.0=Set
*             |  
*            | |  3
*            | |<---- Set 0..1
*   Tap  4 --| |
*   Rtap     | |
*            | |
*       2 ____|   0.0=Set
*
* 
*     RT = total resistance
*     SET = ratio of travel of the wiper
*     RTAP = resistance between "4" and "2" at position TAP.
*     TAP = ratio of travel when the wiper reaches the tap, e.g. 0.5



* --- Potentiometer with a power "logarithm" characteristic and a tap ---
*
* The tap is typically at about 50%(tap=0.5) of the potentiometer's travel.
* RTAP is the resistance between node 4 and node 2 at position TAP.
*
*  v=V0*Set^const
*  tap at Set=0.5(50%), Rtap=0.1(10%)*Rt
*  const = ln(0.5)/ln(0.1)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rt=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_pow 1 2 3 4 PARAMS: Rt=10k SET=0.5 RTAP=1k TAP=0.5
* Parameters RT, SET, RTAP, TAP
*
.param w=limit(Set,0.01m,.99999)
.param TAP1=limit(0.01m, TAP, 0.99999)
.param pwrexp=ln(RTAP/RT)/ln(TAP1)
*
.param ratio=w**pwrexp
.param RD=Rt*ratio
*
R1 1 5 {limit(0.01m, (RT-RD), (RT-RTAP-0.01m)}
R2 5 4 {limit(0.01m, (RD-RTAP), (RT-RTAP-0.01m)}
R3 4 6 {limit(0.01m, (RTAP-RD), (RTAP-0.01m)}
R4 6 2 {limit(0.01m, (RD), (RTAP-0.01m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {w}
.model sw1 SW(Ron=1m, Roff=1T vt={TAP1})
.model sw2 SW(Ron=1T, Roff=1m vt={TAP1})
*
.ENDS



* --- Potentiometer with a positive "logarithm" characteristic and a tap ---
*
* The tap is typically at about 50%(tap=0.5) of the potentiometer's travel.
* RTAP is the resistance between node 4 and node 2 at position TAP.
*
*  v=V0*exp(const*(1-Set))
*  tap at Set=0.5(50%), Rtap=0.1(10%)*Rt
*  const = ln(0.5)/ln(0.1)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rt=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_plog 1 2 3 4 PARAMS: Rt=10k SET=0.5 RTAP=1k TAP=0.5
* Parameters RT, SET, RTAP, TAP
*
.param w=limit(Set,0.01m,.99999)
.param TAP1=limit(0.01m, TAP, 0.99999)
.param pwrexp=ln(RTAP/RT)/(1-TAP1)
*
.param ratio=exp(pwrexp*(1-w))
.param RD=Rt*ratio
*
R1 1 5 {limit(0.01m, (RT-RD), (RT-RTAP-0.01m)}
R2 5 4 {limit(0.01m, (RD-RTAP), (RT-RTAP-0.01m)}
R3 4 6 {limit(0.01m, (RTAP-RD), (RTAP-0.01m)}
R4 6 2 {limit(0.01m, (RD), (RTAP-0.01m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {w}
.model sw1 SW(Ron=1m, Roff=1T vt={TAP1})
.model sw2 SW(Ron=1T, Roff=1m vt={TAP1})
*
.ENDS



* --- Potentiometer with a negative "logarithm" characteristic and a tap ---
*
* The tap is typically at about 50%(tap=0.5) of the potentiometer's travel.
* RTAP is the resistance between node 4 and node 2 at position TAP.
*
*  v=V0*exp(const*Set)
*  tap at Set=0.5(50%), Rtap=0.1(10%)*Rt
*  const = ln(0.5)/ln(0.1)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rt=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_nlog 1 2 3 4 PARAMS: Rt=10k SET=0.5 RTAP=1k TAP=0.5
* Parameters RT, SET, RTAP, TAP
*
.param w=limit(Set,0.01m,.99999)
.param TAP1=limit(0.01m, TAP, 0.99999)
.param pwrexp=ln(RTAP/RT)/(TAP1)
*
.param ratio=exp(pwrexp*(w))
.param RD=Rt*ratio
*
R1 1 5 {limit(0.01m, (RT-RD), (RT-RTAP-0.01m)}
R2 5 4 {limit(0.01m, (RD-RTAP), (RT-RTAP-0.01m)}
R3 4 6 {limit(0.01m, (RTAP-RD), (RTAP-0.01m)}
R4 6 2 {limit(0.01m, (RD), (RTAP-0.01m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {1-w}
.model sw1 SW(Ron=1m, Roff=1T vt={TAP1})
.model sw2 SW(Ron=1T, Roff=1m vt={TAP1})
*
.ENDS



* ----- Potentiometer with a linear characteristic and a tap -----
* The tap value is defined by RTAP.
* RTAP is the resistance between node 4 and node 2 at position TAP.
* The tap is typically at about 50%(tap=0.5) of the potentiometer's travel.
* Parameter TAP is ignored by this model.
*
*  v=V0*Set^const
*  tap at Set=0.5(50%), Rtap=0.1(10%)*Rt
*  const = ln(0.5)/ln(0.1)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rt=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_lin 1 2 3 4  
* Parameters RT, SET, RTAP
*
.param ratio=limit(Set,0.01m,.99999)
*
.param RD=Rt*ratio
.param TAP1=limit(0.01m, (RTAP/RT), 0.99999)
*
R1 1 5 {limit(0.01m, (RT-RD), (RT-RTAP-0.01m)}
R2 5 4 {limit(0.01m, (RD-RTAP), (RT-RTAP-0.01m)}
R3 4 6 {limit(0.01m, (RTAP-RD), (RTAP-0.01m)}
R4 6 2 {limit(0.01m, (RD), (RTAP-0.01m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {ratio}
.model sw1 SW(Ron=1m, Roff=1T vt={TAP1})
.model sw2 SW(Ron=1T, Roff=1m vt={TAP1})
*
.ENDS


* --- Potentiometer with an arbitrary characteristic and a tap ---
*
* It allows to define a flat region around the tap as we can
* often see in the datasheets.
* It requires the definition of a table within this model.
* The tap is typically at about 50%(tap=0.5) of the potentiometer's travel.
* RTAP is the resistance between node 4 and node 2 at position TAP.
*
*  v=V0*table(Set)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rt=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_tab 1 2 3 4  PARAMS: Rt=10k SET=0.5 RTAP=5k TAP=0.5
* Parameters RT, SET, RTAP, TAP
*
.param w=limit(Set,0.01m,.99999)
.param TAP1=limit(0.01m, TAP, 0.99999)
*
.param ratio=TABLE(w, 0,0, 0.1, 0.001, 0.2, 0.003, 0.3, 0.01, 
+ 0.4, 0.05, 0.48, 0.1, 0.52, 0.1, 0.6, 0.2, 0.7, 0.35,
+ 0.8, 0.6, 0.9, 0.9, 0.95, 0.98, 1.0, 1.0) 
*
.param RD=Rt*ratio
*
R1 1 5 {limit(0.01m, (RT-RD), (RT-RTAP-0.01m)}
R2 5 4 {limit(0.01m, (RD-RTAP), (RT-RTAP-0.01m)}
R3 4 6 {limit(0.01m, (RTAP-RD), (RTAP-0.01m)}
R4 6 2 {limit(0.01m, (RD), (RTAP-0.01m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {w}
.model sw1 SW(Ron=1m, Roff=1T vt={TAP1})
.model sw2 SW(Ron=1T, Roff=1m vt={TAP1})
*
.ENDS
* Potentiometer with a logarithm characteristic and a tap.
* The tap is typically at about 50%(tap=0.5) of the poentiometer's travel.
* RTAP is the resistance between node 4 and node 2.
*
*  v=V0*wiper^const
*  tap at wiper=0.5(50%), Rtap=0.1(10%)*Rtot
*  const = ln(0.5)/ln(0.1)
*
*          3  wiper
*          V
* 1.0 <------------------------- 0.0       
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  |   R3     R4
*                  4 tap
*
*     Rtot=R1+R2+R3+R4
*     Rtap=R3+R4
*
.SUBCKT pot_tap_audio 1 2 3 4  PARAMS: RT=10k SET=0.5 RTAP=1k TAP=0.5
.param w=limit(set,0.1m,.9999)

.param pwrexp=ln(RTAP/RT)/ln(TAP)
.param ratio=w**pwrexp

.param RD=RT*ratio

R1 1 5 {limit(1m, (RT-RD), (RT-RTAP-1m)}
R2 5 4 {limit(1m, (RD-RTAP), (RT-RTAP-1m)}
R3 4 6 {limit(1m, (RTAP-RD), (RTAP-1m)}
R4 6 2 {limit(1m, (RD), (RTAP-1m)}

sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2

vsw 7 0 {w}
.model sw1 SW(Ron=1m, Roff=1T vt=0.5)
.model sw2 SW(Ron=1T, Roff=1m vt=0.5)
.ENDS 

* Potentiometer with a linear characteristic and a tap.
* The tap value is defined by RTAP.
* RTAP is the resistance between node 4 and node 2.
* Parameter TAP is ignored by this model.
*
*  v=V0*set^const
*  tap at set=0.5(50%), Rtap=0.1(10%)*Rt
*  const = ln(0.5)/ln(0.1)
*
*          3
*          V
*      ------------------------>        
*      ___  5 ___     ___  6 ___
*  1--|___|--|___|-o-|___|--|___|--2
*                  |
*      R1      R2  4   R3     R4
*
*     Rt=R1+R2+R3+R4
*     Rtap=R1+R2
*
.SUBCKT pot_tap_linear 1 2 3 4  PARAMS: RT=10k SET=0.5 RTAP=1k
* Parameter TAP has been ignored 
.param w=limit(set,0.1m,.9999)
*
.param ratio=w
*
.param RD=Rt*ratio
*
R1 1 5 {limit(1m, (RT-RD), (RT-RTAP-1m)}
R2 5 4 {limit(1m, (RD-RTAP), (RT-RTAP-1m)}
R3 4 6 {limit(1m, (RTAP-RD), (RTAP-1m)}
R4 6 2 {limit(1m, (RD), (RTAP-1m)}
*
sw5 5 3 7 0 sw1
sw6 6 3 7 0 sw2
*
vsw 7 0 {w}
.model sw1 SW(Ron=1m, Roff=1T vt=0.5)
.model sw2 SW(Ron=1T, Roff=1m vt=0.5)
*
.ENDS
*---------------------------------------------------------------------------
* 3 to 1 switch with selection
* sel=1  selects in1
* ...
* sel=3  selects in3
*
*                 in1
*                 | in2
*                 | | in3
*                 | | | out
*                 | | | | 
.subckt sw_3_to_1 1 2 3 4 sel={sel}
S1 1 4  11 0 My_sw_3_to_1
S2 2 4  12 0 My_sw_3_to_1
S3 3 4  13 0 My_sw_3_to_1
B1 11 0 V=IF({sel}>0.5 & {sel}<1.5, 1, -1)
B2 12 0 V=IF({sel}>1.5 & {sel}<2.5, 1, -1)
B3 13 0 V=IF({sel}>2.5 & {sel}<3.5, 1, -1)
.model My_sw_3_to_1 SW(Ron=.1 Roff=1e9 Vt=0)
.ENDS
.subckt 1P3T 1 2 3 4 
R12 1 2 { IF ( SET < 2, 1u, 1T) }
R13 1 3 { IF ( SET <= 2 & SET >= 2, 1u, 1T) }
R14 1 4 { IF ( SET > 2, 1u, 1T) }
.ends
*	*	*	*	*	*	*	*	*	*
* 5 to 1 switch with selection
* sel=0  selects none
* sel=1  selects in1
* ...
* sel=5  selects in5
*
*                 in1
*                 | in2
*                 | | in3
*                 | | | in4
*                 | | | | in5
*                 | | | | | out
*                 | | | | | |
.subckt sw_5_to_1 1 2 3 4 5 6 sel={sel}
S1 1 6  11 0 My_sw_5_to_1
S2 2 6  12 0 My_sw_5_to_1
S3 3 6  13 0 My_sw_5_to_1
S4 4 6  14 0 My_sw_5_to_1
S5 5 6  15 0 My_sw_5_to_1
B1 11 0 V=IF({sel}>0.5 & {sel}<1.5, 1, -1)
B2 12 0 V=IF({sel}>1.5 & {sel}<2.5, 1, -1)
B3 13 0 V=IF({sel}>2.5 & {sel}<3.5, 1, -1)
B4 14 0 V=IF({sel}>3.5 & {sel}<4.5, 1, -1)
B5 15 0 V=IF({sel}>4.5 & {sel}<5.5, 1, -1)
.model My_sw_5_to_1 SW(Ron=.1 Roff=1e9 Vt=0)
.ENDS
*
.subckt swtime 1 2
Von N1 0 PULSE(0 1 {Ton})
S1 1 2 N2 0 Switch
Voff N1 N2 PULSE(0 1 {Toff})
.MODEL Switch SW(Vt=1m Ron=1m Roff=1e7)
.ends
*
* Simple Switches
* Martin Sadler
*
* SET = 0, switch off
* SET = 1, Switch on

.subckt spst 1 2
Rsw12 1 2 {1T*(1-SET)+.001}
.ends spst

.subckt spdt 1 2 3
Rsw12 1 2 {1T*(1-SET)+.001}
Rsw13 1 3 {1T*SET+.001}
Rsw23 2 3 {1T}
.ends spdt

.subckt dpdt 1a 2a 3a 1b 2b 3b
Rswa12 1a 2a {1T*(1-SET)+.001}
Rswa13 1a 3a {1T*SET+.001}
Rswa23 2a 3a {1T}
Rswb12 1b 2b {1T*(1-SET)+.001}
Rswb13 1b 3b {1T*SET+.001}
Rswb23 2b 3b {1T}
.ends dpdt
